US05998433
a) Synthesis of 1-(2-formyl-5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl)-6-phenylhexan-1-one
To 30 ml of N,N-dimethylformamide, 0.33 ml (3.6 mmol) of phosphorus oxychloride was added under ice-cooling, followed by stirring at room temperature for 0.5 hours. To this mixture, a solution of 1.064 g (3.578 mmol) of 1-(5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl)-6-phenylhexan-1-one in 20 ml of N,N-dimethylformamide was added, followed by overnight stirring at room temperature. After water was added, the reaction mixture was extracted with ethyl acetate 3 times. The combined organic layer was dried over anhydrous magnesium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel flush column chromatography (hexane/ethyl acetate=2/1 to 1/1) to yield the desired product.

reactant | phosphorus oxychloride | 3.6 mmol, 0.33 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 1-(5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl)-6-phenylhexan-1-one | 3.578 mmol, 1.064 g | O1C=CC2=C1CN(CC2)C(CCCCCC2=CC=CC=C2)=O | C19H23NO2
reactant | water | O | H2O
reactant | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
reactant | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 1-(2-formyl-5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl)-6-phenylhexan-1-one | C(=O)C1=CC2=C(CN(CC2)C(CCCCCC2=CC=CC=C2)=O)O1 | C20H23NO3
